US07268230B2
Diisopropyl azadicarboxylate (230 μl, 1.17 mmol) was added dropwise to a solution of 3-[4-(2-fluoroethyl)piperazin-1-yl]propan-1-ol (203 mg, 1.07 mmol), triphenylphosphine (357 mg, 1.36 mmol) and 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-hydroxy-6-methoxyquinazoline (330 mg, 0.97 mmol), (prepared as described for the starting material in Example 7), in dichloromethane (8.5 ml). The reaction mixture was stirred at ambient temperature for 1.5 hours and then loaded directly onto a silica column, eluting with a mixture of methanol in methylene chloride (11/89) to give 7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (413 mg, 83%) as a white solid.

reactant | 3-[4-(2-fluoroethyl)piperazin-1-yl]propan-1-ol | 1.07 mmol, 203 mg | FCCN1CCN(CC1)CCCO | C9H19FN2O
reactant | triphenylphosphine | 1.36 mmol, 357 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-hydroxy-6-methoxyquinazoline | 0.97 mmol, 330 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)O)C | C18H14FN3O3
solvent | dichloromethane | 8.5 ml | ClCCl | CH2Cl2
product | 7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 413 mg, 83% | FCCN1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C27H31F2N5O3
